### PR TITLE
Backport cpr_centropy_RV from the SMC branch

### PR DESCRIPTION
**Pull request by weng-chenghui**
In this PR, I would like to discuss whether the current cpr_centropy_RV lemma by @garrigue  is general enough to be merged into the master branch, or if we should generalize it further.

### CODE REVIEW

File: information_theory/entropy.v [hunk 1]
```diff
@@ -506,6 +511,71 @@ Proof.
...
+Qed.
+
+End cPr_centropy_RV'.
+
+Section cPr_centropy_RV.
+
+Variables (T TY1 TY2 TY3 : finType) (Y1 : {RV P -> TY1})
+  (Y2 : {RV P -> TY2}) (Y3 : {RV P -> TY3}).
+
+Lemma cPr_centropy_RV :
```
Comment (weng-chenghui) [inline information_theory/entropy.v:566]: We only need this in the smc branch. So in this infotheo PR, we don't need add this if we already have the `cPr_centropy_RV'`

File: information_theory/entropy.v [hunk 2]
```diff
@@ -506,6 +511,71 @@ Proof.
 by rewrite /centropy_RV -fdistA_RV3 centropy_fdistA fdistA_fdistAC.
 Qed.
 
+Section cPr_centropy_RV'.
+
+Variables (T TY1 TY2 TY3 : finType) (Y1 : {RV P -> TY1})
+  (Y2 : {RV P -> TY2}) (Y3 : {RV P -> TY3}) (f : TY3 -> TY2).
+
+Lemma cPr_centropy1_RV' y3 :
```
Comment (weng-chenghui) [inline information_theory/entropy.v:519]: Rename to `cPr_centropy1_RV_comp`.

**Review by t6s — APPROVED** [review]

**Comment by t6s** [comment]
I retract my last approval.
We swapped the LHS and RHS in cPr_centropy_RV_comp in a previous commit,
but forgot to do the same in its condition: ``Pr[ X = x | Y = y ] = `Pr[ X = x | (f `o Y) = f y ]`.

File: information_theory/entropy.v [hunk 3]
```diff
@@ -504,6 +500,45 @@ Proof.
...
+Proof.
+move=> H.
+rewrite /centropy1_RV /centropy1.
+congr -%R.
+apply: eq_bigr => a _.
+by rewrite 2!jcPrE -2!cpr_inE' 2!cpr_in1 H.
+Qed.
+
+(* conditional probability removal P(X|(Y,Z))->P(X|Y) implies *)
+(* conditional entropy removal H(X|(Y,Z))->H(X|Y) *)
```
Comment (affeldt-aist) [inline information_theory/entropy.v:519]: This comment talks about "removal" but I think that we agreed during the last meeting to talk about "contraction" in that case. Anyway, the relation between this comment and the code following is unclear.

Comment (t6s) [reply information_theory/entropy.v:519]: I think it is still legitimate to call this implication "removal" in comments (though we use "contraction" for identifiers), as long as the relation to the reference paper is provided.

Comment (weng-chenghui) [reply information_theory/entropy.v]: @affeldt-aist @t6s I tried to update the comment according to your opinions here. Please have a look. Thanks.
